US09447046B2
Preparation 130a: tert-butyl N-({7-[benzyl(methyl)amino]-3,4-dihydro-2H-1-benzopyran-4-yl}methyl)carbamate
To a solution of tert-butyl N-[(7-bromo-3,4-dihydro-2H-1-benzopyran-4-yl)methyl]carbamate (500 mg, 1.46 mmol) in toluene (10 mL) was added N-methyl-benzylamine (212 mg, 1.75 mmol), Cs2CO3 (950 mg, 2.92 mmol), BINAP (44 mg, 0.07 mmol) and Pd(OAc)2 (16 mg, 0.07 mmol). The mixture was stirred overnight at 100° C. under nitrogen. The mixture was filtered and concentrated, and the residue was purified by prep-HPLC to give 362 mg (65%) of the title compound as a colorless gum. [M+H] Calc'd for C23H30N2O3, 383. Found, 383.

reactant | tert-butyl N-[(7-bromo-3,4-dihydro-2H-1-benzopyran-4-yl)methyl]carbamate | 1.46 mmol, 500 mg | BrC1=CC2=C(C(CCO2)CNC(OC(C)(C)C)=O)C=C1 | C15H20BrNO3
reactant | N-methyl-benzylamine | 1.75 mmol, 212 mg | CNCC1=CC=CC=C1 | C8H11N
reactant | Cs2CO3 | 2.92 mmol, 950 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.07 mmol, 16 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | BINAP | 0.07 mmol, 44 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | tert-butyl N-({7-[benzyl(methyl)amino]-3,4-dihydro-2H-1-benzopyran-4-yl}methyl)carbamate | 362 mg, 65% | C(C1=CC=CC=C1)N(C1=CC2=C(C(CCO2)CNC(OC(C)(C)C)=O)C=C1)C | C23H30N2O3
